US06960551B2
Synthesis of [bis(triethoxysilyl)methyl]lithium salt
A commercially available bis(triethoxysilyl)methane (BTM) was lithiated by the following procedure. To 300 mL of freshly distilled dry tetrahydrofuran (THF) in a 3-neck flask attached to a bubbler was added 3.07 g (9.00 mmol) BTM and the solution was flushed for 5 minutes with nitrogen that had been passed through a drying column packed with CaCl2 and Drierite. The solution was cooled down to −78° C. and then 5.2 mL, 1.7 M (9 mmol) of t-butyllithium was added dropwise over 10 minutes. The solution was stirred for 30 minutes at −78° C. after which a very, faint yellowish solution resulted. Then the temperature of the solution was raised to room temperature (RT) and stirring continued for 30 minutes at RT after which the solution turned colorless.

reactant | bis(triethoxysilyl)methane | C(C)O[Si](OCC)(OCC)C[Si](OCC)(OCC)OCC | C13H32O6Si2
reactant | BTM | 9.00 mmol, 3.07 g | C(C)O[Si](OCC)(OCC)C[Si](OCC)(OCC)OCC | C13H32O6Si2
reactant | t-butyllithium | 9 mmol, 1.7 M, 5.2 mL | C(C)(C)(C)[Li]
product | [bis(triethoxysilyl)methyl]lithium | C(C)O[Si](OCC)(OCC)C([Si](OCC)(OCC)OCC)[Li] | InChI=1S/C13H31O6Si2.Li/c1-7-14-20(15-8-2,16-9-3)13-21(17-10-4,18-11-5)19-12-6;/h13H,7-12H2,1-6H3;
